US09340549B2
A microwave vial was charged with (S)-5,5-dimethyl-4-phenyloxazolidin-2-one (commercially available from Sigma-Aldrich, Milwaukee, Wis., 0.100 g, 0.523 mmol), methyl 4-bromo-2-methylbenzoate (commercially available from Sigma-Aldrich, Milwaukee, Wis., 0.132 g, 0.575 mmol), tribasic potassium phosphate (0.555 g, 2.61 mmol) and dioxane (3.50 mL). The mixture was purged with argon and then copper (I) iodide (0.100 g, 0.523 mmol) and N,N′-dimethylethylenediamine (0.113 mL, 1.046 mmol) were added. The system was purged with argon, the tube was sealed, and the reaction mixture was heated at 140° C. for 1 hour in a microwave. The reaction mixture was filtered through Celite® brand filter aid and the filtrate was concentrated to afford an orange brown solid. The solid thus obtained was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% EtOAc-hexane) to afford (S)-methyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-2-methylbenzoate (0.159 g, 0.468 mmol, 90% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.90 (s, 3H), 1.63 (s, 3H), 2.43 (s, 3H), 3.75 (s, 3H), 5.52 (s, 1H), 7.03-7.46 (m, 6H), 7.50 (d, J=2.35 Hz, 1H), 7.75 (d, J=8.71 Hz, 1H). m/z (ESI) 340 (M+H)+.

reactant | (S)-5,5-dimethyl-4-phenyloxazolidin-2-one | CC1([C@@H](NC(O1)=O)C1=CC=CC=C1)C | C11H13NO2
reactant | methyl 4-bromo-2-methylbenzoate | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | potassium phosphate | 2.61 mmol, 0.555 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 1.046 mmol, 0.113 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 0.523 mmol, 0.100 g | [Cu]I
solvent | dioxane | 3.50 mL | O1CCOCC1 | C4H8O2
product | (S)-methyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)-2-methylbenzoate | 0.468 mmol, 0.159 g, 90% yield | CC1([C@@H](N(C(O1)=O)C1=CC(=C(C(=O)OC)C=C1)C)C1=CC=CC=C1)C | C20H21NO4
